US08871756B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylalaninamide
To a solution 2-azido-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropanamide (160 mg, 0.345 mmol) in ethyl acetate (25 mL) was added 10% palladium on carbon (100 mg), the flask was degassed and refilled with hydrogen (repeated for three times). After being stirred at room temperature overnight under a hydrogen atmosphere, the resulting mixture was filtered. The filtrate was concentrated in vacuo. The residue was purified by flash chromatography to afford 110 mg of the title compound (yield was 73%). MS obsd. (ESI+) [(M+H)+] 439, 1H NMR (400 MHz, CDCl3) δ ppm 11.05 (s, 1 H), 8.30 (s, 1 H), 8.02 (dd, J=0.8, 7.6 Hz, 1 H), 7.89 (d, J=7.2 Hz, 1 H), 7.59 (d, J=8.8 Hz, 1 H), 7.53 (t, J=7.6 Hz, 1 H), 7.37 (m, 3 H), 5.17 (s, 2 H), 4.6 (brs., 2 H), 3.56 (s, 2 H), 2.48 (s, 3 H), 1.56 (s, 6 H).

reactant | 2-azido-N-[2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylpropanamide | 0.345 mmol, 160 mg | N(=[N+]=[N-])C(C(=O)NC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)(C)C | C23H24N6O3S
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 100 mg | [Pd] | Pd
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinolin-4-yl]-2-methylalaninamide | 110 mg, yield was 73% | O=S1(CCN(CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1C(=C2)NC(C(N)(C)C)=O)C)=O | C23H26N4O3S
